US07981874B2
[4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-phosphonic acid dimethyl ester.
[2-(4-Bromomethyl-benzoylamino)-4-thiophen-2-yl-phenyl]-carbamic acid tert-butyl ester (0.20 g, 0.41 mmol) was made 2.0 M in anhydrous toluene and to this stirring solution was added trimethylphosphite (0.06 g, 0.45 mmol). The resulting reaction mixture was sealed and stirred at 100° C. for 18 h. The reaction mixture was diluted with EtOAc and washed with saturated aqueous sodium bicarbonate. The organic layer was further washed with brine then dried (MgSO4) and concentrated in vacuo. The residue was dissolved in DMF:MeOH and purified by HPLC (45-95% MeCN in water w/0.025% TFA). Pure fractions were identified, combined, and concentrated in vacuo. The residue was dissolved in 2:1 DCM:TFA and stirred at ambient temperature. After 1 hour the mixture was concentrated in vacuo, diluted with EtOAc, washed with saturated aqueous sodium bicarbonate, brine, dried (MgSO4), then concentrated in vacuo to give the title compound: 1H NMR (DMSO-d6, 600 MHz) 9.68 (s, 1H), 7.92 (d, J=8.4 Hz, 2H), 7.45 (s, 1H), 7.37-7.41 (m, 2H), 7.32-7.34 (m, 1H), 7.26-7.29 (m, 1H), 7.21-7.23 (m, 1H), 7.01-7.04 (m, 1H), 6.78 (d, J=8.4 Hz, 2H), 5.14 (s, 2H), 3.60 (d, J=11.4 Hz, 6H), 3.37 (d, J=22.2 Hz, 2H). MS: cal'd 417 (MH+), exp 417 (MH+)

reactant | [2-(4-Bromomethyl-benzoylamino)-4-thiophen-2-yl-phenyl]-carbamic acid tert-butyl ester | 0.41 mmol, 0.20 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)CBr)=O)=O | C23H23BrN2O3S
reactant | trimethylphosphite | 0.45 mmol, 0.06 g | COP(OC)OC | C3H9O3P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC1=CC=C(C=C1)C(NC1=C(C=CC(=C1)C=1SC=CC1)N)=O | C20H21N2O4PS
